US04012413
8-Chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine-1-acetonitrile
A mixture of 1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepine-2-thione (5.72 g., 0.02 mole), cyanoacetic acid hydrazide (5.95 g., 0.06 mole) and n-butylalcohol (275 ml.) is refluxed for 7.5 hours with a slow stream of nitrogen bubbling through the mixture. The mixture is then concentrated in vacuo. The resulting residue is suspended in water and extracted with methylene chloride. The extract was dried and concentrated. The residue is chromatographed on silica gel (400 g.) with 2% methanol- 98% CHCl3. The product eluted from the column is crystallized from ethyl acetate-Skellysolve B hexanes to give 2.62 g. of 8-chloro-6-phenyl-4H-s-triazolo[4,3a][1,4]benzodiazepine-1-acetonitrile of melting point 198°-201° C.

reactant | 1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepine-2-thione | 0.02 mole, 5.72 g | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | cyanoacetic acid hydrazide | 0.06 mole, 5.95 g | C(#N)CC(=O)NN | C3H5N3O
solvent | n-butylalcohol | 275 ml | C(CCC)O | C4H10O
product | 8-Chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine-1-acetonitrile | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CC#N)C3=CC=CC=C3)C1 | C18H12ClN5
